US06376672B1
33.3 (46.13 mmol) of (3R,4R,5S)-1-benzyl-4-(4-methoxy-phenyl)-5-trityloxymethyl-piperidin-3-ol (S)-hydroxy-phenyl-acetate were treated with a cold aqueous solution of 7.3 g (69.2 mmol) of sodium carbonate in 100 ml water and 600 ml of ethyl acetate. The aqueous phase was separated and extracted twice with 200 ml of ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated under reduced pressure to yield 25 g of (3R,4R,5S)-1-benzyl-4-(4-methoxy-phenyl)-5-trityloxymethyl-piperidin-3-ol as a colorless oil which was directly used without further purification.

reactant | (3R,4R,5S)-1-benzyl-4-(4-methoxy-phenyl)-5-trityloxymethyl-piperidin-3-ol (S)-hydroxy-phenyl-acetate | O[C@H](C(=O)O[C@H]1CN(C[C@H]([C@@H]1C1=CC=C(C=C1)OC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)C1=CC=CC=C1 | C47H45NO5
reactant | sodium carbonate | 69.2 mmol, 7.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | (3R,4R,5S)-1-benzyl-4-(4-methoxy-phenyl)-5-trityloxymethyl-piperidin-3-ol | 25 g | C(C1=CC=CC=C1)N1C[C@@H]([C@H]([C@@H](C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC)O | C39H39NO3
